US07098228B2
(Z) -2-Ethoxy-3-(1H-indol-4-yl)-acrylic acid ethyl ester
To a solution of 35.01 g (81.6 mmol) of (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride in 200 ml of dichloromethane was added at 0° C. 11.01 ml (87.1 mmol) of tetramethyl guanidine and the mixture was warmed to 22° C. The mixture was treated with 7.9 g (54.4 mmol) of 4-formyl-indole and stirring was continued at 40° C. for 16 h. The mixture was treated again with 10.0 g (23.3 mmol) of the Wittig salt and 8.0 ml (24.0 mmol) of tetramethyl guanidine and stirring was continued at 40° C. for 24 h after which time the conversion was complete. The reaction mixture was poured into crashed ice and then extracted twice with MeCl2. The organic layer was washed with water, dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica (n-heptane/AcOEt, 95:5 to 4:1) to give 15.12 g of the title compound as a light yellow solid.

reactant | (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride | 81.6 mmol, 35.01 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetramethyl guanidine | 87.1 mmol, 11.01 ml | CN(C(N(C)C)=N)C | C5H13N3
reactant | 4-formyl-indole | 54.4 mmol, 7.9 g | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
reactant | tetramethyl guanidine | 24.0 mmol, 8.0 ml | CN(C(N(C)C)=N)C | C5H13N3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (Z) -2-Ethoxy-3-(1H-indol-4-yl)-acrylic acid ethyl ester | 15.12 g | C(C)OC(/C(=C/C1=C2C=CNC2=CC=C1)/OCC)=O | C15H17NO3
